US07145012B2
Preparation of Intermediate 5-(4-Chloro-phenyl)-1-(2-chloro-phenyl)-4-[2-(2-trimethylsilanyl-ethoxy)-vinyl]-1H-pyrazole-3-carboxylic acid ethyl ester (I-3a)
A slurry of sodium hydride (45 mg of 60% in oil) in dimethyl sulfoxide (2 ml) was stirred at 75° C. for 45 minutes, cooled to room temperature, then (2-(trimethylsilyl)-ethoxymethyl)triphenylphosphonium chloride (480 mg) was added in one portion to produce a red solution. After 10 minutes, a solution of 5-(4-chloro-phenyl)-1-(2-chloro-phenyl)-4-formyl-1H-pyrazole-3-carboxylic acid ethyl ester (218 mg) in dimethylsulfoxide (1 ml) was added dropwise and the resulting solution was stirred for 1 hour. Saturated aqueous ammonium chloride was added and the reaction mixture was partitioned between diethyl ether and water. The organic phase was dried (Na2SO4) and concentrated in vacuo to afford a purple oil. Silica gel chromatography (30% ethyl acetate/hexanes) afforded the title compound (I-3a) as a golden oil, 210 mg.

reactant | sodium hydride | 45 mg | [H-].[Na+]
reactant | (2-(trimethylsilyl)-ethoxymethyl)triphenylphosphonium chloride | 480 mg | [Cl-].C[Si](CCOC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(C)C
reactant | 5-(4-chloro-phenyl)-1-(2-chloro-phenyl)-4-formyl-1H-pyrazole-3-carboxylic acid ethyl ester | 218 mg | C(C)OC(=O)C1=NN(C(=C1C=O)C1=CC=C(C=C1)Cl)C1=C(C=CC=C1)Cl | C19H14Cl2N2O3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dimethyl sulfoxide | 2 ml | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 1 ml | CS(=O)C | C2H6OS
product | 5-(4-Chloro-phenyl)-1-(2-chloro-phenyl)-4-[2-(2-trimethylsilanyl-ethoxy)-vinyl]-1H-pyrazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=NN(C(=C1C=COCC[Si](C)(C)C)C1=CC=C(C=C1)Cl)C1=C(C=CC=C1)Cl | C25H28Cl2N2O3Si
